US08071807B2
(3-Benzyloxy-4-chloro-phenyl)-acetic acid (8 g) was treated with hydrogen chloride (4N in 1,4-dioxane; 6 mL) in EtOH (100 mL) at 80° C. for 3 hours. After concentrating to dryness, the residue was purified by silica gel chromatography to give (3-benzyloxy-4-chloro-phenyl)-acetic acid ethyl ester.

reactant | (3-Benzyloxy-4-chloro-phenyl)-acetic acid | 8 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)CC(=O)O | C15H13ClO3
reactant | hydrogen chloride | 4N, 6 mL | Cl | ClH
reactant | EtOH | 100 mL | CCO | C2H6O
product | (3-benzyloxy-4-chloro-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)OCC1=CC=CC=C1)=O | C17H17ClO3
